US07897767B2
A mixture of N-{4-[5,6-dimethyl-8-({[(1-methylethylidene)amino]oxy}methyl)-7H-imidazo[4,5-c]tetraazolo[1,5-a]pyridin-7-yl]butyl}-2-methylpropanamide (from Part C, approximately 9.71 mmol), triphenylphosphine (5.1 g, 19 mmol), and 1,2-dichlorobenzene (97 mL) was heated at 125° C. for 2 days, then stirred at room temperature for 3 days, then heated at 130° C. for 5 hours. The reaction was allowed to cool to room temperature and was concentrated under reduced pressure. The residue was dissolved in methanol (80 mL) and 1 M aqueous hydrochloric acid (40 mL) and heated at 40° C. for 6 hours. The reaction was allowed to stir at room temperature overnight and a white precipitate formed that was removed by filtration. The filtrate was concentrated under reduced pressure and the residue was partitioned between 1 M aqueous hydrochloric acid (20 mL) and chloroform (10 mL). The aqueous layer was extracted with chloroform (3×10 mL). The organic layers were combined, washed with saturated aqueous sodium bicarbonate, dried over sodium sulfate, filtered, and concentrated under reduced pressure. The solid was purified by chromatography using a HORIZON HPFC system (silica gel, gradient elution with 5-55% CMA in chloroform). The appropriate fractions were combined and concentrated under reduced pressure. The resulting solid was triturated with acetonitrile and then was recrystallized from acetonitrile to provide N-{4-[4-amino-6,7-dimethyl-2-({[(1-methylethylidene)amino]oxy}methyl)-1H-imidazo[4,5-c]pyridin-1-yl]butyl}-2-methylpropanamide as a white powder, mp 180.0-181.0° C.

reactant | N-{4-[5,6-dimethyl-8-({[(1-methylethylidene)amino]oxy}methyl)-7H-imidazo[4,5-c]tetraazolo[1,5-a]pyridin-7-yl]butyl}-2-methylpropanamide | approximately 9.71 mmol | CC1=C(C2=C(C=3N1N=NN3)N=C(N2CCCCNC(C(C)C)=O)CON=C(C)C)C | C20H30N8O2
reactant | triphenylphosphine | 19 mmol, 5.1 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | 1,2-dichlorobenzene | 97 mL | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | N-{4-[4-amino-6,7-dimethyl-2-({[(1-methylethylidene)amino]oxy}methyl)-1H-imidazo[4,5-c]pyridin-1-yl]butyl}-2-methylpropanamide | NC1=NC(=C(C2=C1N=C(N2CCCCNC(C(C)C)=O)CON=C(C)C)C)C | C20H32N6O2
